US07238808B2
5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.1) (355 mg, 1.0 mmol) and 5-bromo-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (example B.2) (402 mg, 1.3 mmol) according to general procedure II. Obtained as a yellow solid (310 mg, 53%). MS (ISN) 582.0 [(M−H)−]; mp 226–227° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C16H7F6N3
reactant | 5-bromo-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | 1.3 mmol, 402 mg | OCC(C)(C)NS(=O)(=O)C=1C=NC=C(C1)Br | C9H13BrN2O3S
product | 5-[7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyridine-3-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | OCC(C)(C)NS(=O)(=O)C=1C=NC=C(C1)C#CC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C25H19F6N5O3S
